US07365085B2
b) 3-Pyrrolidin-1-yl-phenol
To a stirring solution of 1-(3-methoxy-phenyl)-pyrrolidine (354 mg, 2 mmol) in dichloromethane (30 ml) at 0° C. was added BBr3 (4.0 ml, 4 mmol, 1 M solution in dichloromethane) in a dropwise fashion. The resulting solution was stirred over night at room temperature and then poured into ice water (30 ml). The aqueous mixture was extracted with dichloromethane (3×). The combine organic layers were washed with brine (1×), dried over sodium sulfate, and filtered. The dichloromethane filtrate was concentrated to afford the title compound as an oil (317 mg, 97%). MS(ES) m/e 164.2 ([M+H]+).

reactant | 1-(3-methoxy-phenyl)-pyrrolidine | 2 mmol, 354 mg | COC=1C=C(C=CC1)N1CCCC1 | C11H15NO
reactant | BBr3 | 4 mmol, 1 M, 4.0 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-Pyrrolidin-1-yl-phenol | 317 mg, 97% | N1(CCCC1)C=1C=C(C=CC1)O | C10H13NO
